US04894386
A mixture of 3,6-diformylindole (1 g), methyl(triphenylphosphoranylidene)acetate (7.76 g) and dry dioxane (50 ml) was stirred and heated under reflux for 6 hr under an atmosphere of nitrogen. The solvent was evaporated, the residue extracted with several portions of ether, the ether extracts evaporated and the crude product purified by flash chromatography, eluting with 2:3 ethyl acetate:hexane, to give dimethyl E,E-indole-3,6-diacrylate (1.2 g, 73%) as a yellow solid; partial NMR (250 MHz, DMSO-d6): 3.71(s, 3H, OCH3), 3.73(s, 3H, OCH3), 6.40(d, J=16.0 Hz, 1H, olefinic H); 6.60(d, J=16.0 Hz, 1H, olefinic H); 12.02(br s, 1H, NH).

reactant | 3,6-diformylindole | 1 g | C(=O)C1=CNC2=CC(=CC=C12)C=O | C10H7NO2
reactant | methyl(triphenylphosphoranylidene)acetate | 7.76 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | dimethyl E,E-indole-3,6-diacrylate | 1.2 g, 73% | N1C=C(C2=CC=C(C=C12)/C=C/C(=O)OC)/C=C/C(=O)OC | C16H15NO4
